US05650092
Preparation of (4-cyanophenyl) trans-4-(3-methylbutyl)-4-silacyclohexanecarboxylate
The general procedure of Example 3 was repeated using (4-cyanophenol and 4-(3-methylbutyl)-4-phenyl-4-silacyclohexanecarboxylic acid, thereby obtaining the intended product.

reactant | 4-cyanophenol | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | 4-(3-methylbutyl)-4-phenyl-4-silacyclohexanecarboxylic acid | CC(CC[Si]1(CCC(CC1)C(=O)O)C1=CC=CC=C1)C | C17H26O2Si
product | (4-cyanophenyl) trans-4-(3-methylbutyl)-4-silacyclohexanecarboxylate | CC(CC[Si@@H]1CC[C@H](CC1)C(=O)OC1=CC=C(C=C1)C#N)C | C18H25NO2Si
